US06897231B2
SYNTHESIS OF 3-(3-{2-[4-(TRIFLUOROMETHYL)PHENYL]ACETYLAMINO}PHENYL)-1H-INDAZOLE-5-CARBOXAMIDE
Following Example 290, the reaction of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (200 mg, 0.56 mmol) with 4-(trifluoromethyl)phenylacetic acid (0.15 g, 0.71 mmol) and EDCI (0.17 g, 0.89 mmol) furnished 28 mg (11% yield) of the title compound. 1H NMR (DMSOd6) δ 10.4 (s, 1H), 8.6 (s, 1H), 8.22 (s, 1H), 8.1 (br s, 1H), 7.9 (dd, 1H), 7.8-7.68 (m, 3H), 7.6 (m, 3H), 7.5 (t, 1H), 7.35 (s, 1H), 7.17 (m, 2H), 3.8 (s, 2H); ES-MS (m/z) 439 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.56 mmol, 200 mg | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | 4-(trifluoromethyl)phenylacetic acid | 0.71 mmol, 0.15 g | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | EDCI | 0.89 mmol, 0.17 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-(3-{2-[4-(TRIFLUOROMETHYL)PHENYL]ACETYLAMINO}PHENYL)-1H-INDAZOLE-5-CARBOXAMIDE | 28 mg, 11% yield | FC(C1=CC=C(C=C1)CC(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N)(F)F | C23H17F3N4O2
